US06297258B1
4-((2S)-2-Methoxymethylpyrrolidin-1-yl)but-2-ynoic Acid[4-(3-bromophenylamino)-3-cyanoquinolin-6-yl]amide
To an ice cold solution of 1.46 g (7.40 mmol) of 4-((2S)-2-methoxymethylpyrrolidin-1-yl)but-2-ynoic acid in 85 mL of THF under N2 was added 0.897 g (8.88 mmol) of N-methylmorpholine and 0.811 g (5.92 mmol) of isobutyl chloroformate. After stirring in the cold for 30 min, a solution of 1.00 g (2.96 mmol) of 6-amino-4-[(3-bromophenyl)amino]-quinoline-3-carbonitrile in 8 mL of pyridine was added dropwise. The reaction was slowly warmed to 25° C. over 3 h. The reaction was poured into ice water, satd NaHCO3 was added and the product was extracted with ethyl acetate. After drying and solvent evaporation, the residue was chromatographed on silica gel (10% methanol in ethyl acetate). The yield was 0.560 g of 4-((2S)-2-methoxymethylpyrrolidinyl-1-yl)but-2-ynoic acid[4-(3-bromophenylamino)-3-cyanoquinolin-6-yl]amide as a brown foam: mass spectrum (electrospray, m/e): M+H 518.0, 520.0.

reactant | 4-((2S)-2-methoxymethylpyrrolidin-1-yl)but-2-ynoic acid | 7.40 mmol, 1.46 g | COC[C@H]1N(CCC1)CC#CC(=O)O | C10H15NO3
reactant | N-methylmorpholine | 8.88 mmol, 0.897 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 5.92 mmol, 0.811 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-bromophenyl)amino]-quinoline-3-carbonitrile | 2.96 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 4-((2S)-2-Methoxymethylpyrrolidin-1-yl)but-2-ynoic Acid[4-(3-bromophenylamino)-3-cyanoquinolin-6-yl]amide | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C#CCN1[C@@H](CCC1)COC)=O)C#N | C26H24BrN5O2
